US05753679
0.5 g (0.00147 mol) of 1-benzyl-piperidin-4-yl 2-nitro-benzoate was dissolved in 20 ml of ethanol and treated with 0.05 g of Raney-nickel. The mixture was hydrogenated at room temperature under normal pressure for 24 hrs. The catalyst was filtered off and the solvent was removed completely. The residue was chromatographed over silica gel with ethyl acetate/hexane (1:1) as the eluent. 0.322 g (71%) of 1-benzyl-piperidin-4-yl 2-amino-benzoate was obtained as yellow crystals; m.p. 87°-88°.

reactant | 1-benzyl-piperidin-4-yl 2-nitro-benzoate | 0.00147 mol, 0.5 g | [N+](=O)([O-])C1=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC=C1 | C19H20N2O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Raney-nickel | 0.05 g | [Ni] | Ni
product | 1-benzyl-piperidin-4-yl 2-amino-benzoate | 0.322 g, 71% | NC1=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC=C1 | C19H22N2O2
